US08735440B2
Step 1. 3-azido-6-bromo-9H-carbazole
3,6-Dibromocarbazole (0.500 g, 1.538 mmol), NaN3 (0.120 g, 1.846 mmol), CuI (0.029 g, 0.154 mmol), L-proline (0.053 g, 0.461 mmol) and NaOH (0.019 g, 0.461 mmol) were dissolved in 7:3 EtOH/H2O (3.0 mL) and heated to 95° C. under a N2 atmosphere for 24 h. The completed reaction was partitioned between EtOAc/H2O (3×) and the combined organics were washed with satd. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude residue was purified by chromatography (SiO2, 0-15% EtOAc/toluene), followed by HPLC (Phenomenex SiO2 Luna 10, 250×21.2 mm column, 50% EtOAc/Hexane, 21 mL/min, retention time=48 min) to afford the desired product.

reactant | 3,6-Dibromocarbazole | 1.538 mmol, 0.500 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | NaN3 | 1.846 mmol, 0.120 g | [N-]=[N+]=[N-].[Na+]
reactant | L-proline | 0.461 mmol, 0.053 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | NaOH | 0.461 mmol, 0.019 g | [OH-].[Na+]
solvent | EtOH H2O | 3.0 mL | CCO.O
catalyst | CuI | 0.154 mmol, 0.029 g | [Cu]I
product | 3-azido-6-bromo-9H-carbazole | N(=[N+]=[N-])C=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7BrN4
